US06797848B2
Synthesis of 3-bromo-β-methylstilbene
Under a stream of argon, into a 500 ml three-necked flask equipped with a condenser, 5.1 g (10 mmol) of 10,10′-dibromo-9,9′-bianthryl, 0.4 g (5% by mol) of dichlorobis(triphenylphosphine)palladium, 1 ml (1 M; 1 mmol) of a toluene solution of diisobutylaluminum hydride and 100 ml of THF were placed. To the resultant mixture, the Grignard reagent prepared above was added dropwise at the room temperature. Then, the resultant mixture was heated and stirred under heating for one night. After the reaction was completed, the reaction solution was cooled with ice water. The formed crystals were separated by filtration and washed with 50 ml of methanol and 50 ml of acetone, successively, and 5.3 g of a yellow powder was obtained. The yellow powder was identified to be compound E43 by measurements in accordance with NMR, IR and FD-MS (the yield: 72%).

reactant | 10,10′-dibromo-9,9′-bianthryl | 10 mmol, 5.1 g | BrC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C28H16Br2
reactant | toluene | 1 mmol, 1 ml | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
catalyst | dichlorobis(triphenylphosphine)palladium | 0.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-bromo-β-methylstilbene | 5.3 g, yield: 72% | BrC=1C=C(C=CC1)C=C(C1=CC=CC=C1)C | C15H13Br
